US07750155B2
To a solution of (2E)-3-[5-({(3R)-1-[3-phenylpropyl]-3-piperidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (265 mg) in EtOH (1.5 mL) was added 2N—HCl solution in EtOH (1.5 mL). The reaction mixture was stirred for 2 hours at ambient temperature. IPE (1.5 ml) was added to the mixture. The resulting solid was collected by filtration to give (2E)-N-hydroxy-3-[5-[{(3R)-1-(3-phenylpropyl)-3-piperidinyl}amino]-2-pyrazinyl]acrylamide dihydrochloride (148 mg).

reactant | (2E)-3-[5-({(3R)-1-[3-phenylpropyl]-3-piperidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 265 mg | C1(=CC=CC=C1)CCCN1C[C@@H](CCC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C26H35N5O3
reactant | HCl | Cl | ClH
solvent | EtOH | 1.5 mL | CCO | C2H6O
solvent | EtOH | 1.5 mL | CCO | C2H6O
product | (2E)-N-hydroxy-3-[5-[{(3R)-1-(3-phenylpropyl)-3-piperidinyl}amino]-2-pyrazinyl]acrylamide dihydrochloride | 148 mg | Cl.Cl.ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CCC1)CCCC1=CC=CC=C1)=O | InChI=1S/C21H27N5O2.2ClH/c27-21(25-28)11-10-18-14-23-20(15-22-18)24-19-9-5-13-26(16-19)12-4-8-17-6-2-1-3-7-17;;/h1-3,6-7,10-11,14-15,19,28H,4-5,8-9,12-13,16H2,(H,23,24)(H,25,27);2*1H/b11-10+;;/t19-;;/m1../s1
